US08440838B2
Production of 5-(5-amino-3-trifluoromethyl-1H-1,2,4-triazol-1-yl)-4-fluoro-2-methylthiophenol
In a 25-ml eggplant flask provided with a magnetic stirrer was placed 1.83 g (5 mmol) of 5-(5-amino-3-trifluoromethyl-1H-1,2,4-triazol-1-yl)-4-fluoro-2-methylbenzenesulfonyl chloride, followed by addition of 1.6 g (25 mmol) of zinc, 10 ml of ethanol and 10 ml of (100 mmol) of 18% hydrochloric acid. The mixture was stirred at room temperature for 15 minutes. Then, the mixture was refluxed with heating until the zinc powder was dissolved completely. The mixture was cooled to room temperature. Thereto were added 30 ml of water and 30 ml of ethyl acetate to give rise to phase separation. The aqueous phase was extracted with 30 ml of ethyl acetate. The ethyl acetate phase was washed with water and then with a saturated aqueous sodium chloride solution, and dried over anhydrous sodium sulfate. Vacuum distillation was conducted to distill off ethyl acetate to obtain 1.5 g of a crystal. Yield: 100%

reactant | 5-(5-amino-3-trifluoromethyl-1H-1,2,4-triazol-1-yl)-4-fluoro-2-methylbenzenesulfonyl chloride | 5 mmol, 1.83 g | NC1=NC(=NN1C=1C(=CC(=C(C1)S(=O)(=O)Cl)C)F)C(F)(F)F | C10H7ClF4N4O2S
reactant | ethanol | 10 ml | C(C)O | C2H6O
reactant | hydrochloric acid | 100 mmol | Cl | ClH
reactant | water | 30 ml | O | H2O
catalyst | zinc | 25 mmol, 1.6 g | [Zn] | Zn
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
product | 5-(5-amino-3-trifluoromethyl-1H-1,2,4-triazol-1-yl)-4-fluoro-2-methylthiophenol | 1.5 g, Yield: 100% | NC1=NC(=NN1C=1C(=CC(=C(C1)S)C)F)C(F)(F)F | C10H8F4N4S
